US07041667B1
N-(1-Benzyl-4-methyl-4-piperidinyl)acetamide
Concentrated sulphuric acid (3 ml) was added dropwise to a solution of 1-benzyl-4-methyl-4-piperidinol (640 mg, 2.56 mmol) in acetonitrile (4 ml) at 0° C. After 1 hour the reaction was cautiously poured onto 2N sodium hydroxide (20 ml), the layers separated and the aqueous extracted with dichloromethane (3×). The combined organic extracts were washed with water, brine, dried (K2CO3), filtered and evaporated under reduced pressure to afford the title compound as a clear oil, 600 mg.

reactant | sulphuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
reactant | 1-benzyl-4-methyl-4-piperidinol | 2.56 mmol, 640 mg | C(C1=CC=CC=C1)N1CCC(CC1)(O)C | C13H19NO
reactant | sodium hydroxide | 2N, 20 ml | [OH-].[Na+]
reactant | acetonitrile | 4 ml | C(C)#N | C2H3N
product | N-(1-Benzyl-4-methyl-4-piperidinyl)acetamide | C(C1=CC=CC=C1)N1CCC(CC1)(C)NC(C)=O | C15H22N2O
